.INCLUDE 45nm_HP.pm

*****OPTIONS*******************************************
.OPTIONS GMIN=1e-20 
.option POST
.options AUTOSTOP=NO
.options ABSTOL=1e-18 
.options NUMDGT=4     PIVOT=1e-13
.option MEASDGT=6

****Parameters**********
.PARAM Lmin=45n
.PARAM Wmin=45n
.PARAM XX=1

****Include external subcircuit files*****
.INCLUDE "./nand.net"         ; Path to your nand gate subcircuit
.INCLUDE "./inverter_edited.net" ; Path to your inverter subcircuit

****NAND4 Gate Definition ********
.subckt nand4_gate output input_a input_b input_c input_d node1
* Step 1: Use a nand gate
Xnand41 nand_op1 input_a input_b node1 nand_gate
Xinv42 inv_op1 nand_op1 node1 inverter
Xnand43 nand_op2 input_c input_d node1 nand_gate
Xinv44 inv_op2 nand_op2 node1 inverter
Xnand45 output inv_op1 inv_op2 node1 nand_gate

.ends nand4_gate



